US05686455
4-(3-Aminophenyl)-2-(4-methylthiophenyl)-5-(4-pyridyl)-1H-imidazole
A solution of 0.161 g (0.41 mmol) of 2-(4-methylthiophenyl)-4-(3-nitrophenyl)-5-(4-pyridyl)-1H-imidazole [See Ex. 62 below] in 3.4 mL of HOAc-H2O (1:1) was treated with 1.81 mL (2.87 mmol) of 20% aqueous titanium (III) chloride in one single portion. The mixture was stirred at rt for 20 min, then made basic with 10% NaOH. The aqueous mixture was extracted with 95:5 CH2Cl2 /MeOH. The organic extracts were washed with H2O and saturated NaCl. Evaporation of solvent in vacuo afforded a yellow solid which was filtered through a plug of silica gel, elating with 90:10 CHCl3 /MeOH. The title compound was isolated as a pale yellow solid (0.129 g, 78%): CIMS (NH3,m/z): 359.1 (M+ +H).

reactant | 2-(4-methylthiophenyl)-4-(3-nitrophenyl)-5-(4-pyridyl)-1H-imidazole | 0.41 mmol, 0.161 g | CSC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=NC=C1 | C21H16N4O2S
reactant | NaOH | [OH-].[Na+]
solvent | HOAc-H2O | 3.4 mL | OC(=O)C.O
catalyst | titanium (III) chloride | 2.87 mmol, 1.81 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 4-(3-Aminophenyl)-2-(4-methylthiophenyl)-5-(4-pyridyl)-1H-imidazole | NC=1C=C(C=CC1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C=C1)SC | C21H18N4S
